US04976773
(B) 2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxypropionic acid chloride hydrochloride:
By using 2-chloro-5-trifluoromethylpyridine instead of 2,3-dichloro-5-trifluoromethylpyridine in the above (b), 2-(4-(5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid chloride hydrochloride was obtained.

reactant | 2-chloro-5-trifluoromethylpyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-(4-(5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid chloride hydrochloride | Cl.FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F
solvent | 2-bromobutyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxypropionic acid chloride hydrochloride | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | InChI=1S/C15H10Cl2F3NO3.ClH/c1-8(13(17)22)23-10-2-4-11(5-3-10)24-14-12(16)6-9(7-21-14)15(18,19)20;/h2-8H,1H3;1H
